Frequency To Voltage Converter
*SPICE Netlist generated by Advanced Sim server on 11/06/2002 5:07:27 PM

*Schematic Netlist:
C1 OUT 0 1uF
.IC V(OUT)=10
R1 A OUT 1k
R2 OUT 0 1MEG
V1 IN 0 DC 0 SFFM(0 1 10k 5 1k) AC 1 0
XV2 IN 0 A 0 FTOV#0

.SAVE 0 A IN OUT V1#branch @V1[z]

*PLOT TRAN -1 1 A=IN A=OUT
*PLOT OP -1 1 A=IN A=OUT

*Selected Circuit Analyses:
.TRAN 7E-7 0.005 0 7E-7
.OP

*Models and Subcircuit:
.SUBCKT FTOV#0 1 2 3 4
A2 [1 2] [10 20] ADC_MOD
A2 [10 20] [40] FCVS_MOD
A3 [40] [5] DAV_MOD
B1 3 4 V=(V(5)/1E+3)
.MODEL ADC_MOD XADC
.MODEL DAV_MOD XDAV
.MODEL FCVS_MOD
+ XSIMCODE(FILE="D:\Program Files\Altium\Library\Sim\FCVS.SCB" FUNC=FCVS VIL=1E-1 VIH=2E-1)
.ENDS FTOV

.END
